US05112988
A solution of (3aRS,7aRS)-2-benzyl-7,7-bis(2-fluorophenyl)perhydro-4-isoindolone (2.34 g) in methanol (100 cc), to which N hydrochloric acid (6.2 cc) is added, is hydrogenated at atmospheric pressure in the presence of palladinized charcoal (10% palladium) (0.4 g) for 5 hours at 25° C. The reaction medium is filtered and concentrated under reduced pressure (2.7 kPa) to give (3aRS,7aRS)-7,7-bis(2-fluorophenyl)perhydro-4-isoindolone hydrochloride (2 g) in the form of a white solid.

reactant | (3aRS,7aRS)-2-benzyl-7,7-bis(2-fluorophenyl)perhydro-4-isoindolone | 2.34 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=C(C=CC=C1)F)C1=C(C=CC=C1)F | C27H25F2NO
reactant | hydrochloric acid | 6.2 cc | Cl | ClH
reactant | charcoal | 0.4 g | C | CH4
solvent | methanol | 100 cc | CO | CH4O
product | (3aRS,7aRS)-7,7-bis(2-fluorophenyl)perhydro-4-isoindolone hydrochloride | 2 g | Cl.FC1=C(C=CC=C1)C1(CCC(C2CNCC12)=O)C1=C(C=CC=C1)F | InChI=1S/C20H19F2NO.ClH/c21-17-7-3-1-5-14(17)20(15-6-2-4-8-18(15)22)10-9-19(24)13-11-23-12-16(13)20;/h1-8,13,16,23H,9-12H2;1H
